US06864265B2
A mixture of 3-bromonitrobenzene (6.06 g, 30 mmol) and o-methylhydroxylamine hydrochloride (3.13 g, 37.5 mmol) were reacted in the presence of copper (I) chloride (0.59 g, 6 mmol) and potassium t-butoxide (10.1 g, 90 mmol) in DMF (75 mL). Aqueous work-up and chromatography gave 2-amino-3-bromonitrobenzene (0.36 g, 6%) as an orange powder. 1H NMR (CDCl3) δ6.60 (t, 1H, J=9 Hz), 7.70 (d, 1H, J=9 Hz), 8.14 (d, 1H, J=9 Hz).

reactant | 3-bromonitrobenzene | 30 mmol, 6.06 g | BrC=1C=C(C=CC1)[N+](=O)[O-] | C6H4BrNO2
reactant | o-methylhydroxylamine hydrochloride | 37.5 mmol, 3.13 g | CO[NH3+].[Cl-]
reactant | potassium t-butoxide | 90 mmol, 10.1 g | CC(C)([O-])C.[K+]
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
catalyst | copper (I) chloride | 6 mmol, 0.59 g | [Cu]Cl
product | 2-amino-3-bromonitrobenzene | 0.36 g, 6% | NC1=C(C=CC=C1Br)[N+](=O)[O-] | C6H5BrN2O2
